Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I'm good." 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
For further details of the history and presentation, please see 
OMR, including Dr. ___ initial consultation note 
dated ___. 
. 
Briefly, this is a ___ year old woman, currently a student at the 
___ with history of depression, SIB in the 
past, who presented to ___ ED after a counselor at her 
employee assistance program at her work called ___ due to 
concerns for suicidal ideation, with patient reportedly making a 
suicidal vlog post and tumbr post over the weekend. 
. 
Upon initial interview, patient reported feeling depressed since 
high school with passive suicidal ideation since college. She 
stated her suicidal ideation began during her freshman year of 
college when she was dated her boyfriend who also had SI. She 
reported numerous ongoing stressors during the past academic 
year, including a large course load, numerous extracurricular 
activities, and a recent breakup. Ms. ___ reported her 
depression "really hit" in ___ at that time, her mother, who 
is a ___, prescribed her Zoloft 25 mg. When her depression 
continued to worse, she saw a psychiatrist in ___ who increased 
her dose to 50 mg. Following the end of the semester, she moved 
to ___ for a summer job-- she stated she has some friends 
from work but with minimal supports. Over the weekend, patient 
reported feeling very lonely, smoked cannabis and drank alcohol 
alone in the park and began to experience more active SI, with 
thoughts of cutting herself and bleeding to death. 
. 
Following thinking about these things in the park, patient 
reported she went home and began to cut herself with the pipe 
she used to smoke marijuana and she cut deep enough to draw 
blood. Patient reported feeling "proud" of having drawn blood, 
stating it was "kind of nice," continuing to cut her things. On 
___,
she wrote a tumblr post centered around her SI, stating she 
posted it on tumblr knowing it was unlikely that anyone would 
read it. On ___, she smoked marijuana again and then made a 
vlog post that she sent to two close friends, one of whom texted 
her back without having watched it and the other friend who
seemed concerned and advised her to seek help at work. 
Subsequently, on the day of presentation, she reached out to 
employee assistance at her job, who called ___. In the ED, she 
denied current SI, stating she wanted to go home and smoke
marijuana, stating she could "possibly" see her self committing 
suicide. 
. 
Patient reported sleeping more than usual with some fatigue, 
increased appetite during the school year then with sudden 
difficulty sleeping with poor appetite over the past few days. 
Reported 8 pound weight gain over the course of the semester, 
stating that her mother was very critical of her body image
issues. Reported poor motivation, poor concentration and 
impaired concentration. Reported anxiety with shortness of 
breath and chest tightening but stated she did not believe these 
were panic attacks. 
. 
ED Course: patient was in good behavioral control and did not 
require physical or chemical restraints. 
. 
On my interview with Ms. ___, who appeared anxious but was a 
relatively reliable historian, she confirmed the history 
presented above. Reported longstanding history of depression, 
feelings of "emptiness" with intermittent SI with worsening of 
her symptoms over the past semester, stating she has felt
overwhelmed at school with numerous academic and extracurricular 
activities. Stated that recently she has been "tired of 
gathering energy, all these obstacles keep coming up semester 
after semester and I'm exhausted from trying." Stated she tried 
to get help from ___ but since it was the end 
of the semester she was unable to be seen and also briefly tried 
therapy online, which she did not like. Reported that her 
depression was alleviated somewhat during her one week home 
prior to starting her internship but with significant worsening 
of her symptoms upon moving to ___ and starting her 
internship. She also went on to relay several intense 
relationships with men she had met on ___, stating she tends 
to get into intense relationships quickly because she wants to 
feel "attached." Reports feeling safe on the unit at this time, 
denies current SI or thoughts of self harm. Has been taking 
Zoloft, although missed 2 days. Denies side effects. States she 
wants to be discharged soon with referral to outpatient 
supports. 

 
Past Medical History:
Past Psychiatric History: 
- Diagnoses: No known formal diagnoses 
- SA/SIB: history of scratching in the past, recently starting
cutting. Denies history of suicide attempts 
- Hospitalizations: denies 
- Psychiatrist: none
- Therapist: none 
- Medication Trials: Zoloft 

Past Medical History: 
- Vitamin D Deficiency. 
- Seasonal Allergies
- Hives of unknown cause (possibly ___ cat scratch) treated with
prednisone

 
Social History:
Substance History:  
- Alcohol: States she only started recently socially drinking 
since moving to ___, endorses having drunk enough to get 
drunk on ___
- Marijuana: Smokes 2x daily to relieve anxiety, has been 
smoking since freshman year. Denies other illicits 
- Tobacco: denies 
.
Social History: Patient was born and raised in ___ as 
the youngest of 2 children. Parents are from ___ and mother 
works as physician (family practice and ob-gyn) and her father 
manages her office. Patient states that she was raised initially 
by her paternal grandmother when she was very young and then her 
maternal grandmother until she died when she was in the ___ or 
___ grade. She described this loss as difficult. Ms. ___ 
described her mother as "liking things to be neat-- she is more 
concerned about school and my career than my health." Stated she 
does not talk much with her father, whom she stated is 
unsupportive. Patient reports her parents have a tumultuous 
relationship, coming home and fighting with each other; Ms. ___ 
stated that when she was a senior in high school her mother told 
her that she was thinking of divorcing her father and that she 
did not marry him out of love. Patient stated her main supports 
were her childhood friends. She graduated high school and is 
currently in her senior year at ___ studying 
___ science. States she enjoys ___ and is scheduled 
to graduate in ___. Currently she is ___ of ___ 
___, which is stressful. Never married, no children. 
Denies history of legal issues. Reported her father has hit her 
in the
past as punishment but denied physical abuse. Denies sexual 
abuse. 

 
Family History:
Family History: 
- Diagnoses: no known formal diagnoses, but father with ?anxiety
- SA: denies 
- Addictions: denies 

 
Physical Exam:
___ 0742 Temp: 97.8 PO BP: 99/66 HR: 58 RR: 16 O2 sat: 98% 

General: young female in NAD. Well-nourished, well-developed.
Appears stated age.
HEENT: Normocephalic, atraumatic. EOMI. Oropharynx clear.
Back: No significant deformity.
Lungs: CTA ___. No crackles, wheezes, or rhonchi.
CV: RRR, no murmurs/rubs/gallops. 
Abdomen: +BS, soft, nontender, nondistended. No palpable masses
or organomegaly.
Extremities: No clubbing, cyanosis, or edema.
Skin: No rashes, abrasions, scars, or lesions. 

Neurological:

Cranial Nerves:
-EOM: full
-Facial sensation to light touch in all 3 divisions: equal
-Facial symmetry on smile: symmetric
-Hearing grossly normal 
-Phonation: normal
-Shoulder shrug: intact
-Tongue: midline

Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Gait: Steady.
Normal stance and posture. No truncal ataxia.

 
Pertinent Results:
___ 04:19PM URINE  HOURS-RANDOM
___ 04:19PM URINE  UCG-NEGATIVE
___ 04:19PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:19PM URINE  BLOOD-TR* NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-TR*
___ 04:19PM URINE  RBC-<1 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-3
___ 03:32PM   GLUCOSE-93 UREA N-15 CREAT-0.7 SODIUM-140 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-24 ANION GAP-12
___ 03:32PM   estGFR-Using this
___ 03:32PM   TSH-1.6
___ 03:32PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 03:32PM   WBC-4.4 RBC-4.40 HGB-12.8 HCT-38.6 MCV-88 
MCH-29.1 MCHC-33.2 RDW-13.2 RDWSD-42.1
___ 03:32PM   NEUTS-50.2 ___ MONOS-6.6 EOS-1.6 
BASOS-0.9 IM ___ AbsNeut-2.21 AbsLymp-1.78 AbsMono-0.29 
AbsEos-0.07 AbsBaso-0.04
___ 03:32PM   PLT COUNT-211
 
Brief Hospital Course:
This is a ___ year old woman, currently a student at the 
___ with history of depression, SIB in the 
past, who presented to ___ ED after a counselor at her 
employee assistance program at her work called ___ due to 
concerns for suicidal ideation, with patient reportedly making a 
suicidal vlog post and tumbr post over the weekend. 
. 
Upon interview, patient reports longstanding history of 
depression in the setting of reportedly unsupportive parents 
with chronic feelings of emptiness, rejection sensitivity, 
history of intense interpersonal relationships, with history of 
SIB with recent worsening of symptoms in the setting of numerous 
stressors as noted above with limited supports. Mental status 
examination notable for well groomed woman who is cooperative on 
examination, who appears somewhat anxious with slightly rapid 
speech but with thought process that is mostly linear, goal and 
future oriented. 
. 
Diagnostically, etiology of presentation is unclear and may be 
multifactorial. Differential includes MDD, without psychotic 
features, with patient reporting low mood, disruption in sleep, 
appetite, poor concentration and she does appear dysthymic at 
times on examination. Given the apparent chronic nature of her 
depression with feelings of emptiness, SIB, apparent reactivity, 
chronic suicidal ideation, I am concerned for underlying cluster 
B traits. In addition, her significant cannabis use may be 
contributing to her current presentation. Of note, nothing in 
her history to suggest a prior manic episode, although given her 
young age, I cannot rule this out at this time. Nothing in her 
history or presentation that would suggest a primary psychotic 
disorder. Given her young age and good health, an underlying 
medical condition is unlikely to be contributing to her 
presentation. 
. 
#. Legal/Safety: Patient admitted to ___ on a ___, upon admission she declined to sign a conditional voluntary 
form. Of note, she maintained her safety throughout her 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints. Given her consistent denial of suicidal 
ideation or thoughts of self harm with thought process that was 
notably linear, logical, goal and future oriented throughout her 
hospitalization, I did not believe she met criteria to file a 
section 7&8b upon expiration of her ___. 
. 
#. Depression: as noted above
- Patient was compliant in attending groups and maintained 
excellent behavioral control in the milieu. 
- After discussion of the risks and benefits, we increased the 
patient's Zoloft from 50 mg po daily to 75 daily. She tolerated 
this well without complaints of side effects
- After discussion of the risks and benefits, Vistaril 25 mg po 
prn was initiated and titrated up to 50 mg po prn with good 
effect on anxiety, insomnia. 
- In the setting of the stabilizing environment of the milieu 
and  above medication changes, Ms. ___ consistently denied 
suicidal ideation or thoughts of self harm during her 
hospitalization. Discussed the pros and cons of returning home 
with parents and patient stated she wished to return to her 
internship with outpatient supports. An attempt was made to 
refer to an IOP, but the IOP did not accept her insurance-- 
patient will follow up with program to see if a single case 
agreement can be made. 
- With the patient's permission, a family meeting was held on 
day of discharge with her mother, father, and brother. We 
discussed step presentation and hospital course as well as the 
importance of Ms. ___ following up with outpatient providers. 
The family was supportive with no safety concerns expressed 
during the meeting. 
. 
#. Cannabis use:
- Patient was counseled to decrease the amount of cannabis she 
was using and encourage to remain abstinent from this substance. 

.
#. Medical: no acute issues during this hospitalization 

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1.  HydrOXYzine 50 mg PO TID PRN anxiety, agitation, insomnia  
RX *hydroxyzine HCl 50 mg 1 tab by mouth three times a day Disp 
#*45 Tablet Refills:*0 
2.  Sertraline 75 mg PO DAILY 
RX *sertraline [Zoloft] 50 mg 1.5 tablet(s) by mouth daily Disp 
#*23 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, recurrent, severe, without psychotic 
features
Cannabis use disorder

 
Discharge Condition:
97.9     97 / 63  76  1899R/A
A/B: Appears stated age, dressed casually with good hygiene and 
grooming, calm cooperative with interviewer, good eye contact, 
no psychomotor agitation or retardation noted
S: normal rate, volume, prosody 
M: 'okay' 
A: euthymic, mood congruent, appropriate
TC: denies SI/HI, AVH
TP: linear, logical, goal and future oriented
C: awake, alert and oriented x3 
I/J: Fair/fair 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___